US04879295
To a solution of ethyl 2-(5-methyl-2-thienyl)-5-methyl-4-thiazolecarboxylate (1.47 g) in methanol (100 ml) was added 1N aqueous potassium hydroxide (16.5 ml) and the mixture was heated at 60° C. for 40 minutes. Then the solvent was removed from the reaction mixture. The residue was treated with water and acidified with 2N hydrochloric acid under ice-cooling. The deposited solids were filtered and washed with water, recrystallized from methanol-water to give yellowish crystals of 2-(5-methyl-2-thienyl)-5-methyl-4-thiazolecarboxylic acid (1.06 g, yield 80%), m.p. 160°-161° C.

reactant | ethyl 2-(5-methyl-2-thienyl)-5-methyl-4-thiazolecarboxylate | 1.47 g | CC1=CC=C(S1)C=1SC(=C(N1)C(=O)OCC)C | C12H13NO2S2
reactant | potassium hydroxide | 1N, 16.5 ml | [OH-].[K+]
solvent | methanol | 100 ml | CO | CH4O
product | 2-(5-methyl-2-thienyl)-5-methyl-4-thiazolecarboxylic acid | 1.06 g, yield 80% | CC1=CC=C(S1)C=1SC(=C(N1)C(=O)O)C | C10H9NO2S2
